US09315489B2
3-(1H-Imidazol-1-yl)-4-methyl-N-(4-(trifluoromethoxy)phenyl)benzamide
A mixture of 3-iodo-4-methyl-N-(4-(trifluoromethoxy)phenyl)benzamide (100 mg, 0.237 mmol), imidazole (64.6 mg, 0.95 mmol), CuI (9.04 mg, 0.048 mmol), L-proline (10.94 mg, 0.094 mmol), K2CO3 (131.2 mg, 0.95 mmol) and DMSO (250 μL) were stirred under argon for 66 h at 90° C. The RM was cooled to, diluted with DCM/EtOAc, filtered, washed with 10% aq. NaCO3 solution and brine, dried over MgSO4 and the solvent was evaporated off under reduced pressure to give a residue which was purified by flash chromatography (RediSep® 4 g silica gel, DCM/MeOH+1% NH3 from 0% B to 10% DCM/MeOH+1% NH3) to afford the title compound. UPLC-MS (Condition 2) tR=0.9 min, m/z=362.2 [M+H]+; 1H-NMR (400 MHz, DMSO-d6) δ ppm 2.23 (s, 3H) 7.12 (d, J=0.78 Hz, 1H) 7.36 (d, J=8.99 Hz, 2H) 7.49 (d, J=0.78 Hz, 1H) 7.58 (d, J=7.82 Hz, 1H) 7.84-7.90 (m, 2H) 7.90-7.93 (m, 1H) 7.93-7.95 (m, 1H) 7.98 (dd, J=7.82, 1.56 Hz, 1H) 10.41 (s, 1H).

reactant | 3-iodo-4-methyl-N-(4-(trifluoromethoxy)phenyl)benzamide | 0.237 mmol, 100 mg | IC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1C | C15H11F3INO2
reactant | imidazole | 0.95 mmol, 64.6 mg | N1C=NC=C1 | C3H4N2
reactant | L-proline | 0.094 mmol, 10.94 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K2CO3 | 0.95 mmol, 131.2 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM EtOAc | C(Cl)Cl.CCOC(=O)C
catalyst | CuI | 0.048 mmol, 9.04 mg | [Cu]I
solvent | DMSO | 250 μL | CS(=O)C | C2H6OS
product | 3-(1H-Imidazol-1-yl)-4-methyl-N-(4-(trifluoromethoxy)phenyl)benzamide | N1(C=NC=C1)C=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1C | C18H14F3N3O2
